** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-185/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant J20b: 300 cycles, nominal period
** 3.9170 ns, injected period jitter 2.000000% RMS
** (seeded RNG, seed 185020), TR = TF = 200 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.900000n 0 2.100000n 1.8 3.926718n 1.8
+ 4.126718n 0 5.953435n 0 6.153435n 1.8 7.954477n 1.8
+ 8.154477n 0 9.955519n 0 10.155519n 1.8 11.916415n 1.8
+ 12.116415n 0 13.877311n 0 14.077311n 1.8 15.800017n 1.8
+ 16.000017n 0 17.722723n 0 17.922723n 1.8 19.654881n 1.8
+ 19.854881n 0 21.587039n 0 21.787039n 1.8 23.530937n 1.8
+ 23.730937n 0 25.474835n 0 25.674835n 1.8 27.407245n 1.8
+ 27.607245n 0 29.339654n 0 29.539654n 1.8 31.311071n 1.8
+ 31.511071n 0 33.282487n 0 33.482487n 1.8 35.281092n 1.8
+ 35.481092n 0 37.279697n 0 37.479697n 1.8 39.267873n 1.8
+ 39.467873n 0 41.256050n 0 41.456050n 1.8 43.149159n 1.8
+ 43.349159n 0 45.042269n 0 45.242269n 1.8 47.029540n 1.8
+ 47.229540n 0 49.016812n 0 49.216812n 1.8 51.030739n 1.8
+ 51.230739n 0 53.044665n 0 53.244665n 1.8 54.949077n 1.8
+ 55.149077n 0 56.853489n 0 57.053489n 1.8 58.852050n 1.8
+ 59.052050n 0 60.850611n 0 61.050611n 1.8 62.722305n 1.8
+ 62.922305n 0 64.594000n 0 64.794000n 1.8 66.547324n 1.8
+ 66.747324n 0 68.500649n 0 68.700649n 1.8 70.481258n 1.8
+ 70.681258n 0 72.461868n 0 72.661868n 1.8 74.371902n 1.8
+ 74.571902n 0 76.281936n 0 76.481936n 1.8 78.290432n 1.8
+ 78.490432n 0 80.298928n 0 80.498928n 1.8 82.249630n 1.8
+ 82.449630n 0 84.200331n 0 84.400331n 1.8 86.168505n 1.8
+ 86.368505n 0 88.136680n 0 88.336680n 1.8 90.063668n 1.8
+ 90.263668n 0 91.990656n 0 92.190656n 1.8 93.970806n 1.8
+ 94.170806n 0 95.950956n 0 96.150956n 1.8 97.958699n 1.8
+ 98.158699n 0 99.966443n 0 100.166443n 1.8 101.903670n 1.8
+ 102.103670n 0 103.840896n 0 104.040896n 1.8 105.748168n 1.8
+ 105.948168n 0 107.655440n 0 107.855440n 1.8 109.527216n 1.8
+ 109.727216n 0 111.398993n 0 111.598993n 1.8 113.391125n 1.8
+ 113.591125n 0 115.383257n 0 115.583257n 1.8 117.328776n 1.8
+ 117.528776n 0 119.274294n 0 119.474294n 1.8 121.265963n 1.8
+ 121.465963n 0 123.257631n 0 123.457631n 1.8 125.219040n 1.8
+ 125.419040n 0 127.180448n 0 127.380448n 1.8 129.106747n 1.8
+ 129.306747n 0 131.033045n 0 131.233045n 1.8 133.025448n 1.8
+ 133.225448n 0 135.017851n 0 135.217851n 1.8 137.032783n 1.8
+ 137.232783n 0 139.047715n 0 139.247715n 1.8 141.040677n 1.8
+ 141.240677n 0 143.033638n 0 143.233638n 1.8 144.998818n 1.8
+ 145.198818n 0 146.963997n 0 147.163997n 1.8 148.879751n 1.8
+ 149.079751n 0 150.795504n 0 150.995504n 1.8 152.795248n 1.8
+ 152.995248n 0 154.794992n 0 154.994992n 1.8 156.746499n 1.8
+ 156.946499n 0 158.698005n 0 158.898005n 1.8 160.586095n 1.8
+ 160.786095n 0 162.474185n 0 162.674185n 1.8 164.426918n 1.8
+ 164.626918n 0 166.379650n 0 166.579650n 1.8 168.283842n 1.8
+ 168.483842n 0 170.188033n 0 170.388033n 1.8 172.199283n 1.8
+ 172.399283n 0 174.210533n 0 174.410533n 1.8 176.196602n 1.8
+ 176.396602n 0 178.182670n 0 178.382670n 1.8 180.085998n 1.8
+ 180.285998n 0 181.989326n 0 182.189326n 1.8 183.989354n 1.8
+ 184.189354n 0 185.989381n 0 186.189381n 1.8 187.971504n 1.8
+ 188.171504n 0 189.953627n 0 190.153627n 1.8 191.911032n 1.8
+ 192.111032n 0 193.868436n 0 194.068436n 1.8 195.794042n 1.8
+ 195.994042n 0 197.719648n 0 197.919648n 1.8 199.608880n 1.8
+ 199.808880n 0 201.498112n 0 201.698112n 1.8 203.492624n 1.8
+ 203.692624n 0 205.487135n 0 205.687135n 1.8 207.438938n 1.8
+ 207.638938n 0 209.390741n 0 209.590741n 1.8 211.360868n 1.8
+ 211.560868n 0 213.330995n 0 213.530995n 1.8 215.253427n 1.8
+ 215.453427n 0 217.175859n 0 217.375859n 1.8 219.142708n 1.8
+ 219.342708n 0 221.109557n 0 221.309557n 1.8 223.085296n 1.8
+ 223.285296n 0 225.061034n 0 225.261034n 1.8 227.036825n 1.8
+ 227.236825n 0 229.012615n 0 229.212615n 1.8 231.005090n 1.8
+ 231.205090n 0 232.997564n 0 233.197564n 1.8 235.030977n 1.8
+ 235.230977n 0 237.064390n 0 237.264390n 1.8 238.960409n 1.8
+ 239.160409n 0 240.856429n 0 241.056429n 1.8 242.809372n 1.8
+ 243.009372n 0 244.762314n 0 244.962314n 1.8 246.746034n 1.8
+ 246.946034n 0 248.729753n 0 248.929753n 1.8 250.673425n 1.8
+ 250.873425n 0 252.617097n 0 252.817097n 1.8 254.573888n 1.8
+ 254.773888n 0 256.530679n 0 256.730679n 1.8 258.476368n 1.8
+ 258.676368n 0 260.422057n 0 260.622057n 1.8 262.454386n 1.8
+ 262.654386n 0 264.486716n 0 264.686716n 1.8 266.450911n 1.8
+ 266.650911n 0 268.415107n 0 268.615107n 1.8 270.390510n 1.8
+ 270.590510n 0 272.365913n 0 272.565913n 1.8 274.350816n 1.8
+ 274.550816n 0 276.335719n 0 276.535719n 1.8 278.256576n 1.8
+ 278.456576n 0 280.177433n 0 280.377433n 1.8 282.170433n 1.8
+ 282.370433n 0 284.163434n 0 284.363434n 1.8 286.126767n 1.8
+ 286.326767n 0 288.090100n 0 288.290100n 1.8 289.984317n 1.8
+ 290.184317n 0 291.878534n 0 292.078534n 1.8 293.881446n 1.8
+ 294.081446n 0 295.884358n 0 296.084358n 1.8 297.821955n 1.8
+ 298.021955n 0 299.759553n 0 299.959553n 1.8 301.688550n 1.8
+ 301.888550n 0 303.617548n 0 303.817548n 1.8 305.606708n 1.8
+ 305.806708n 0 307.595869n 0 307.795869n 1.8 309.511346n 1.8
+ 309.711346n 0 311.426824n 0 311.626824n 1.8 313.468151n 1.8
+ 313.668151n 0 315.509479n 0 315.709479n 1.8 317.378904n 1.8
+ 317.578904n 0 319.248329n 0 319.448329n 1.8 321.196071n 1.8
+ 321.396071n 0 323.143813n 0 323.343813n 1.8 325.185839n 1.8
+ 325.385839n 0 327.227866n 0 327.427866n 1.8 329.111935n 1.8
+ 329.311935n 0 330.996004n 0 331.196004n 1.8 332.903577n 1.8
+ 333.103577n 0 334.811150n 0 335.011150n 1.8 336.804651n 1.8
+ 337.004651n 0 338.798152n 0 338.998152n 1.8 340.743668n 1.8
+ 340.943668n 0 342.689183n 0 342.889183n 1.8 344.643582n 1.8
+ 344.843582n 0 346.597980n 0 346.797980n 1.8 348.587998n 1.8
+ 348.787998n 0 350.578017n 0 350.778017n 1.8 352.560082n 1.8
+ 352.760082n 0 354.542147n 0 354.742147n 1.8 356.522866n 1.8
+ 356.722866n 0 358.503585n 0 358.703585n 1.8 360.459817n 1.8
+ 360.659817n 0 362.416049n 0 362.616049n 1.8 364.355060n 1.8
+ 364.555060n 0 366.294070n 0 366.494070n 1.8 368.188905n 1.8
+ 368.388905n 0 370.083740n 0 370.283740n 1.8 372.039765n 1.8
+ 372.239765n 0 373.995790n 0 374.195790n 1.8 375.955147n 1.8
+ 376.155147n 0 377.914503n 0 378.114503n 1.8 379.862582n 1.8
+ 380.062582n 0 381.810661n 0 382.010661n 1.8 383.719276n 1.8
+ 383.919276n 0 385.627892n 0 385.827892n 1.8 387.587304n 1.8
+ 387.787304n 0 389.546716n 0 389.746716n 1.8 391.606628n 1.8
+ 391.806628n 0 393.666540n 0 393.866540n 1.8 395.605526n 1.8
+ 395.805526n 0 397.544512n 0 397.744512n 1.8 399.455598n 1.8
+ 399.655598n 0 401.366683n 0 401.566683n 1.8 403.349484n 1.8
+ 403.549484n 0 405.332285n 0 405.532285n 1.8 407.216987n 1.8
+ 407.416987n 0 409.101689n 0 409.301689n 1.8 411.016584n 1.8
+ 411.216584n 0 412.931480n 0 413.131480n 1.8 414.845456n 1.8
+ 415.045456n 0 416.759433n 0 416.959433n 1.8 418.724902n 1.8
+ 418.924902n 0 420.690371n 0 420.890371n 1.8 422.574743n 1.8
+ 422.774743n 0 424.459115n 0 424.659115n 1.8 426.436184n 1.8
+ 426.636184n 0 428.413253n 0 428.613253n 1.8 430.310539n 1.8
+ 430.510539n 0 432.207825n 0 432.407825n 1.8 434.176575n 1.8
+ 434.376575n 0 436.145325n 0 436.345325n 1.8 438.120629n 1.8
+ 438.320629n 0 440.095933n 0 440.295933n 1.8 442.082729n 1.8
+ 442.282729n 0 444.069524n 0 444.269524n 1.8 445.998918n 1.8
+ 446.198918n 0 447.928311n 0 448.128311n 1.8 449.879560n 1.8
+ 450.079560n 0 451.830810n 0 452.030810n 1.8 453.783011n 1.8
+ 453.983011n 0 455.735213n 0 455.935213n 1.8 457.733733n 1.8
+ 457.933733n 0 459.732254n 0 459.932254n 1.8 461.722428n 1.8
+ 461.922428n 0 463.712602n 0 463.912602n 1.8 465.680601n 1.8
+ 465.880601n 0 467.648600n 0 467.848600n 1.8 469.568893n 1.8
+ 469.768893n 0 471.489186n 0 471.689186n 1.8 473.496590n 1.8
+ 473.696590n 0 475.503993n 0 475.703993n 1.8 477.477030n 1.8
+ 477.677030n 0 479.450068n 0 479.650068n 1.8 481.399655n 1.8
+ 481.599655n 0 483.349242n 0 483.549242n 1.8 485.336479n 1.8
+ 485.536479n 0 487.323716n 0 487.523716n 1.8 489.291229n 1.8
+ 489.491229n 0 491.258743n 0 491.458743n 1.8 493.269815n 1.8
+ 493.469815n 0 495.280888n 0 495.480888n 1.8 497.234749n 1.8
+ 497.434749n 0 499.188611n 0 499.388611n 1.8 501.211995n 1.8
+ 501.411995n 0 503.235378n 0 503.435378n 1.8 505.258923n 1.8
+ 505.458923n 0 507.282469n 0 507.482469n 1.8 509.209741n 1.8
+ 509.409741n 0 511.137014n 0 511.337014n 1.8 513.116577n 1.8
+ 513.316577n 0 515.096139n 0 515.296139n 1.8 517.075999n 1.8
+ 517.275999n 0 519.055858n 0 519.255858n 1.8 521.018706n 1.8
+ 521.218706n 0 522.981554n 0 523.181554n 1.8 524.954875n 1.8
+ 525.154875n 0 526.928197n 0 527.128197n 1.8 528.937620n 1.8
+ 529.137620n 0 530.947044n 0 531.147044n 1.8 532.956717n 1.8
+ 533.156717n 0 534.966390n 0 535.166390n 1.8 536.984310n 1.8
+ 537.184310n 0 539.002230n 0 539.202230n 1.8 540.983828n 1.8
+ 541.183828n 0 542.965426n 0 543.165426n 1.8 544.893725n 1.8
+ 545.093725n 0 546.822023n 0 547.022023n 1.8 548.797184n 1.8
+ 548.997184n 0 550.772344n 0 550.972344n 1.8 552.707766n 1.8
+ 552.907766n 0 554.643188n 0 554.843188n 1.8 556.626902n 1.8
+ 556.826902n 0 558.610615n 0 558.810615n 1.8 560.598627n 1.8
+ 560.798627n 0 562.586639n 0 562.786639n 1.8 564.609040n 1.8
+ 564.809040n 0 566.631442n 0 566.831442n 1.8 568.569672n 1.8
+ 568.769672n 0 570.507902n 0 570.707902n 1.8 572.476745n 1.8
+ 572.676745n 0 574.445589n 0 574.645589n 1.8 576.371496n 1.8
+ 576.571496n 0 578.297402n 0 578.497402n 1.8 580.327165n 1.8
+ 580.527165n 0 582.356927n 0 582.556927n 1.8 584.309947n 1.8
+ 584.509947n 0 586.262966n 0 586.462966n 1.8 588.219133n 1.8
+ 588.419133n 0 590.175300n 0 590.375300n 1.8 592.140087n 1.8
+ 592.340087n 0 594.104873n 0 594.304873n 1.8 596.062320n 1.8
+ 596.262320n 0 598.019766n 0 598.219766n 1.8 599.929310n 1.8
+ 600.129310n 0 601.838854n 0 602.038854n 1.8 603.839334n 1.8
+ 604.039334n 0 605.839814n 0 606.039814n 1.8 607.774491n 1.8
+ 607.974491n 0 609.709167n 0 609.909167n 1.8 611.622369n 1.8
+ 611.822369n 0 613.535571n 0 613.735571n 1.8 615.516797n 1.8
+ 615.716797n 0 617.498023n 0 617.698023n 1.8 619.501911n 1.8
+ 619.701911n 0 621.505799n 0 621.705799n 1.8 623.501510n 1.8
+ 623.701510n 0 625.497220n 0 625.697220n 1.8 627.476144n 1.8
+ 627.676144n 0 629.455068n 0 629.655068n 1.8 631.384426n 1.8
+ 631.584426n 0 633.313784n 0 633.513784n 1.8 635.200661n 1.8
+ 635.400661n 0 637.087537n 0 637.287537n 1.8 639.029021n 1.8
+ 639.229021n 0 640.970504n 0 641.170504n 1.8 642.898441n 1.8
+ 643.098441n 0 644.826379n 0 645.026379n 1.8 646.821783n 1.8
+ 647.021783n 0 648.817187n 0 649.017187n 1.8 650.796993n 1.8
+ 650.996993n 0 652.776798n 0 652.976798n 1.8 654.781530n 1.8
+ 654.981530n 0 656.786262n 0 656.986262n 1.8 658.693018n 1.8
+ 658.893018n 0 660.599774n 0 660.799774n 1.8 662.581867n 1.8
+ 662.781867n 0 664.563959n 0 664.763959n 1.8 666.552698n 1.8
+ 666.752698n 0 668.541437n 0 668.741437n 1.8 670.443424n 1.8
+ 670.643424n 0 672.345410n 0 672.545410n 1.8 674.319042n 1.8
+ 674.519042n 0 676.292674n 0 676.492674n 1.8 678.282503n 1.8
+ 678.482503n 0 680.272333n 0 680.472333n 1.8 682.259271n 1.8
+ 682.459271n 0 684.246208n 0 684.446208n 1.8 686.185469n 1.8
+ 686.385469n 0 688.124729n 0 688.324729n 1.8 690.075530n 1.8
+ 690.275530n 0 692.026332n 0 692.226332n 1.8 693.989827n 1.8
+ 694.189827n 0 695.953322n 0 696.153322n 1.8 697.884842n 1.8
+ 698.084842n 0 699.816363n 0 700.016363n 1.8 701.764123n 1.8
+ 701.964123n 0 703.711883n 0 703.911883n 1.8 705.661815n 1.8
+ 705.861815n 0 707.611747n 0 707.811747n 1.8 709.562950n 1.8
+ 709.762950n 0 711.514153n 0 711.714153n 1.8 713.470599n 1.8
+ 713.670599n 0 715.427045n 0 715.627045n 1.8 717.421793n 1.8
+ 717.621793n 0 719.416540n 0 719.616540n 1.8 721.333188n 1.8
+ 721.533188n 0 723.249836n 0 723.449836n 1.8 725.194470n 1.8
+ 725.394470n 0 727.139103n 0 727.339103n 1.8 729.058581n 1.8
+ 729.258581n 0 730.978058n 0 731.178058n 1.8 732.864673n 1.8
+ 733.064673n 0 734.751287n 0 734.951287n 1.8 736.698530n 1.8
+ 736.898530n 0 738.645773n 0 738.845773n 1.8 740.571536n 1.8
+ 740.771536n 0 742.497299n 0 742.697299n 1.8 744.459487n 1.8
+ 744.659487n 0 746.421676n 0 746.621676n 1.8 748.378433n 1.8
+ 748.578433n 0 750.335190n 0 750.535190n 1.8 752.231361n 1.8
+ 752.431361n 0 754.127532n 0 754.327532n 1.8 756.052395n 1.8
+ 756.252395n 0 757.977257n 0 758.177257n 1.8 759.932181n 1.8
+ 760.132181n 0 761.887105n 0 762.087105n 1.8 763.872876n 1.8
+ 764.072876n 0 765.858646n 0 766.058646n 1.8 767.821526n 1.8
+ 768.021526n 0 769.784406n 0 769.984406n 1.8 771.731382n 1.8
+ 771.931382n 0 773.678359n 0 773.878359n 1.8 775.602756n 1.8
+ 775.802756n 0 777.527154n 0 777.727154n 1.8 779.513196n 1.8
+ 779.713196n 0 781.499237n 0 781.699237n 1.8 783.471057n 1.8
+ 783.671057n 0 785.442876n 0 785.642876n 1.8 787.417634n 1.8
+ 787.617634n 0 789.392391n 0 789.592391n 1.8 791.379367n 1.8
+ 791.579367n 0 793.366343n 0 793.566343n 1.8 795.324664n 1.8
+ 795.524664n 0 797.282985n 0 797.482985n 1.8 799.325909n 1.8
+ 799.525909n 0 801.368833n 0 801.568833n 1.8 803.320192n 1.8
+ 803.520192n 0 805.271552n 0 805.471552n 1.8 807.267617n 1.8
+ 807.467617n 0 809.263681n 0 809.463681n 1.8 811.241412n 1.8
+ 811.441412n 0 813.219143n 0 813.419143n 1.8 815.152398n 1.8
+ 815.352398n 0 817.085652n 0 817.285652n 1.8 819.089165n 1.8
+ 819.289165n 0 821.092678n 0 821.292678n 1.8 823.077197n 1.8
+ 823.277197n 0 825.061717n 0 825.261717n 1.8 827.016711n 1.8
+ 827.216711n 0 828.971704n 0 829.171704n 1.8 830.852478n 1.8
+ 831.052478n 0 832.733252n 0 832.933252n 1.8 834.711668n 1.8
+ 834.911668n 0 836.690084n 0 836.890084n 1.8 838.658341n 1.8
+ 838.858341n 0 840.626598n 0 840.826598n 1.8 842.537197n 1.8
+ 842.737197n 0 844.447795n 0 844.647795n 1.8 846.460141n 1.8
+ 846.660141n 0 848.472487n 0 848.672487n 1.8 850.391148n 1.8
+ 850.591148n 0 852.309810n 0 852.509810n 1.8 854.324838n 1.8
+ 854.524838n 0 856.339866n 0 856.539866n 1.8 858.270589n 1.8
+ 858.470589n 0 860.201313n 0 860.401313n 1.8 862.167161n 1.8
+ 862.367161n 0 864.133009n 0 864.333009n 1.8 866.094170n 1.8
+ 866.294170n 0 868.055331n 0 868.255331n 1.8 870.029893n 1.8
+ 870.229893n 0 872.004455n 0 872.204455n 1.8 873.874315n 1.8
+ 874.074315n 0 875.744175n 0 875.944175n 1.8 877.653680n 1.8
+ 877.853680n 0 879.563185n 0 879.763185n 1.8 881.564700n 1.8
+ 881.764700n 0 883.566216n 0 883.766216n 1.8 885.505035n 1.8
+ 885.705035n 0 887.443854n 0 887.643854n 1.8 889.482929n 1.8
+ 889.682929n 0 891.522005n 0 891.722005n 1.8 893.492369n 1.8
+ 893.692369n 0 895.462733n 0 895.662733n 1.8 897.387649n 1.8
+ 897.587649n 0 899.312565n 0 899.512565n 1.8 901.317191n 1.8
+ 901.517191n 0 903.321817n 0 903.521817n 1.8 905.323546n 1.8
+ 905.523546n 0 907.325274n 0 907.525274n 1.8 909.307789n 1.8
+ 909.507789n 0 911.290304n 0 911.490304n 1.8 913.275516n 1.8
+ 913.475516n 0 915.260727n 0 915.460727n 1.8 917.304989n 1.8
+ 917.504989n 0 919.349251n 0 919.549251n 1.8 921.286669n 1.8
+ 921.486669n 0 923.224087n 0 923.424087n 1.8 925.218395n 1.8
+ 925.418395n 0 927.212702n 0 927.412702n 1.8 929.162797n 1.8
+ 929.362797n 0 931.112893n 0 931.312893n 1.8 933.101082n 1.8
+ 933.301082n 0 935.089271n 0 935.289271n 1.8 937.094494n 1.8
+ 937.294494n 0 939.099717n 0 939.299717n 1.8 941.035642n 1.8
+ 941.235642n 0 942.971567n 0 943.171567n 1.8 944.903490n 1.8
+ 945.103490n 0 946.835412n 0 947.035412n 1.8 948.763839n 1.8
+ 948.963839n 0 950.692266n 0 950.892266n 1.8 952.646392n 1.8
+ 952.846392n 0 954.600518n 0 954.800518n 1.8 956.526896n 1.8
+ 956.726896n 0 958.453274n 0 958.653274n 1.8 960.272585n 1.8
+ 960.472585n 0 962.091896n 0 962.291896n 1.8 964.064953n 1.8
+ 964.264953n 0 966.038009n 0 966.238009n 1.8 967.991215n 1.8
+ 968.191215n 0 969.944420n 0 970.144420n 1.8 971.880280n 1.8
+ 972.080280n 0 973.816139n 0 974.016139n 1.8 975.704763n 1.8
+ 975.904763n 0 977.593386n 0 977.793386n 1.8 979.507186n 1.8
+ 979.707186n 0 981.420987n 0 981.620987n 1.8 983.324699n 1.8
+ 983.524699n 0 985.228411n 0 985.428411n 1.8 987.207940n 1.8
+ 987.407940n 0 989.187469n 0 989.387469n 1.8 991.160144n 1.8
+ 991.360144n 0 993.132818n 0 993.332818n 1.8 995.100999n 1.8
+ 995.300999n 0 997.069180n 0 997.269180n 1.8 999.028120n 1.8
+ 999.228120n 0 1000.987060n 0 1001.187060n 1.8 1002.929660n 1.8
+ 1003.129660n 0 1004.872259n 0 1005.072259n 1.8 1006.825794n 1.8
+ 1007.025794n 0 1008.779329n 0 1008.979329n 1.8 1010.634314n 1.8
+ 1010.834314n 0 1012.489298n 0 1012.689298n 1.8 1014.476840n 1.8
+ 1014.676840n 0 1016.464383n 0 1016.664383n 1.8 1018.362444n 1.8
+ 1018.562444n 0 1020.260505n 0 1020.460505n 1.8 1022.213828n 1.8
+ 1022.413828n 0 1024.167150n 0 1024.367150n 1.8 1026.100931n 1.8
+ 1026.300931n 0 1028.034712n 0 1028.234712n 1.8 1029.953101n 1.8
+ 1030.153101n 0 1031.871489n 0 1032.071489n 1.8 1033.864841n 1.8
+ 1034.064841n 0 1035.858194n 0 1036.058194n 1.8 1037.884863n 1.8
+ 1038.084863n 0 1039.911532n 0 1040.111532n 1.8 1041.870865n 1.8
+ 1042.070865n 0 1043.830197n 0 1044.030197n 1.8 1045.781948n 1.8
+ 1045.981948n 0 1047.733699n 0 1047.933699n 1.8 1049.607733n 1.8
+ 1049.807733n 0 1051.481766n 0 1051.681766n 1.8 1053.471904n 1.8
+ 1053.671904n 0 1055.462041n 0 1055.662041n 1.8 1057.361843n 1.8
+ 1057.561843n 0 1059.261646n 0 1059.461646n 1.8 1061.240990n 1.8
+ 1061.440990n 0 1063.220334n 0 1063.420334n 1.8 1065.250804n 1.8
+ 1065.450804n 0 1067.281275n 0 1067.481275n 1.8 1069.286057n 1.8
+ 1069.486057n 0 1071.290838n 0 1071.490838n 1.8 1073.294127n 1.8
+ 1073.494127n 0 1075.297415n 0 1075.497415n 1.8 1077.186152n 1.8
+ 1077.386152n 0 1079.074889n 0 1079.274889n 1.8 1081.069770n 1.8
+ 1081.269770n 0 1083.064651n 0 1083.264651n 1.8 1085.032823n 1.8
+ 1085.232823n 0 1087.000996n 0 1087.200996n 1.8 1088.929023n 1.8
+ 1089.129023n 0 1090.857050n 0 1091.057050n 1.8 1092.828508n 1.8
+ 1093.028508n 0 1094.799967n 0 1094.999967n 1.8 1096.746147n 1.8
+ 1096.946147n 0 1098.692327n 0 1098.892327n 1.8 1100.662081n 1.8
+ 1100.862081n 0 1102.631836n 0 1102.831836n 1.8 1104.552715n 1.8
+ 1104.752715n 0 1106.473594n 0 1106.673594n 1.8 1108.432064n 1.8
+ 1108.632064n 0 1110.390534n 0 1110.590534n 1.8 1112.368346n 1.8
+ 1112.568346n 0 1114.346158n 0 1114.546158n 1.8 1116.352095n 1.8
+ 1116.552095n 0 1118.358032n 0 1118.558032n 1.8 1120.323233n 1.8
+ 1120.523233n 0 1122.288434n 0 1122.488434n 1.8 1124.230813n 1.8
+ 1124.430813n 0 1126.173193n 0 1126.373193n 1.8 1128.170548n 1.8
+ 1128.370548n 0 1130.167902n 0 1130.367902n 1.8 1132.089554n 1.8
+ 1132.289554n 0 1134.011205n 0 1134.211205n 1.8 1135.991027n 1.8
+ 1136.191027n 0 1137.970849n 0 1138.170849n 1.8 1139.889201n 1.8
+ 1140.089201n 0 1141.807553n 0 1142.007553n 1.8 1143.770904n 1.8
+ 1143.970904n 0 1145.734255n 0 1145.934255n 1.8 1147.710668n 1.8
+ 1147.910668n 0 1149.687081n 0 1149.887081n 1.8 1151.629362n 1.8
+ 1151.829362n 0 1153.571642n 0 1153.771642n 1.8 1155.541985n 1.8
+ 1155.741985n 0 1157.512328n 0 1157.712328n 1.8 1159.458217n 1.8
+ 1159.658217n 0 1161.404106n 0 1161.604106n 1.8 1163.356936n 1.8
+ 1163.556936n 0 1165.309766n 0 1165.509766n 1.8 1167.262340n 1.8
+ 1167.462340n 0 1169.214913n 0 1169.414913n 1.8 1171.178943n 1.8
+ 1171.378943n 0 1173.142972n 0 1173.342972n 1.8 1175.071486n 1.8
+ 1175.271486n 0 1177.000000n 0 1177.200000n 1.8 1178.958500n 1.8
+ 1179.158500n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.temp 27
.control
set filetype=ascii
save v(CLK)
tran 200p 1.2u
linearize v(CLK)
wrdata tt_27c_1.80v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
